US06313122B1
A. N1-(3-Cyanobenzoyl)-N2-(3-chlorobenzo[b]thiophen-2-ylcarbonyl)-1,2-benzenediamine
To a mixture of N1-(3-cyanobenzoyl)-1,2-benzenediamine (500 mg, 2.1 mmol) and triethylamine (0.44 mL, 3.2 mmol) in methylene chloride (100 mL) was added 3-chlorobenzo[b]thiophene-2-carbonyl chloride (490 mg, 2.1 mmol). After stirring for 20 h, the mixture was concentrated in vacuo and chromatographed (silica gel, 25% ethyl acetate/75% hexane) to give 660 mg (73%) of the title compound as a white solid.

reactant | N1-(3-cyanobenzoyl)-1,2-benzenediamine | 2.1 mmol, 500 mg | C(#N)C=1C=C(C(=O)NC=2C(=CC=CC2)N)C=CC1 | C14H11N3O
reactant | triethylamine | 3.2 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chlorobenzo[b]thiophene-2-carbonyl chloride | 2.1 mmol, 490 mg | ClC=1C2=C(SC1C(=O)Cl)C=CC=C2 | C9H4Cl2OS
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N1-(3-Cyanobenzoyl)-N2-(3-chlorobenzo[b]thiophen-2-ylcarbonyl)-1,2-benzenediamine | 660 mg, 73% | C(#N)C=1C=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2=C(C3=C(S2)C=CC=C3)Cl)C=CC1 | C23H14ClN3O2S
